US03948973
c. Ethyl 2-(p-vinylphenoxy)-2-methylpropionate.
A mixture of 116 g. of ethyl 2-[4-(1-hydroxyethyl)phenoxy]-2-methylpropionate and 92 g. of p-toluenesulfonyl chloride in 500 ml. of pyridine was heated at reflux for three hours, kept at room temperature for about 16 hours and then heated at reflux again for six hours. The reaction mixture was poured into ice water and extracted with hexane. The hexane solution was washed successively with dilute sulfuric acid, 10% potassium bicarbonate, water and saturated sodium chloride solution, then dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was distilled at 104°-111°C. (0.03-0.08 mm.) to give60 g. of ethyl 2-(p-vinylphenoxy)-2-methylpropionate.

reactant | ethyl 2-[4-(1-hydroxyethyl)phenoxy]-2-methylpropionate | OC(C)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H20O4
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(p-vinylphenoxy)-2-methylpropionate | C(=C)C1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C14H18O3
